US08431538B2
6-(1,2,3,4-Tetrahydrocarbazol-9-yl)hexanoic acid ethyl ester (15)
A RB flask fitted with reflux condenser containing tetrahydrocarbazole (1.71 g, 10.0 mol) was dissolved in DMSO (30 mL), treated with potassium tert-butoxide (1M solution in THF, 12 mL) and stirred at 110° C. for 20 min. Ethyl 6-bromohexanoate (1.67 mL, 10.0 mmol) was added and the mixture stirred at 110° C. for 60 min. The reaction was quenched with a 1:1 brine:water solution (120 mL) and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried (Na2SO4) and concentrated. Purification by column chromatography (25% ethyl acetate in hexane) afforded the title compound (1.01 g, 32%). 1H NMR (400 MHz, CDCl3): δ 7.52 (m, 1H), 7.27 (m, 1H), 7.19 (m, 1H), 7.12 (m, 1H), 4.18 (q, 2H, J=7.1 Hz), 4.04 (t, 2H, J=7.4 Hz), 2.78-2.73 (m, 4H), 2.33 (t, 2H, J=7.5 Hz), 2.00-1.92 (m, 4H), 1.80-1.75 (m, 2H), 1.72-1.66 (m, 2H), 1.42 (m, 2H), 1.30 (t, 3H, J=6.9 Hz). ESI-HRMS (m/z): [M+H]+ calcd. for C20H27NO2, 314.2115. found, 314.2103.

reactant | tetrahydrocarbazole | 10.0 mol, 1.71 g | C1CCCC=2C3=CC=CC=C3NC12 | C12H13N
reactant | potassium tert-butoxide | 1M, 12 mL | CC(C)([O-])C.[K+]
reactant | Ethyl 6-bromohexanoate | 10.0 mmol, 1.67 mL | BrCCCCCC(=O)OCC | C8H15BrO2
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
product | 6-(1,2,3,4-Tetrahydrocarbazol-9-yl)hexanoic acid ethyl ester | 1.01 g, 32% | C(C)OC(CCCCCN1C2=CC=CC=C2C=2CCCCC12)=O | C20H27NO2
